US08003654B2
12) Synthesis of ethyl-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-amine
prepared by reaction of the commercially available 1,5-dimethyl-1H-pyrazole-4-carbaldehyde with 2M ethylamine in THF.

reactant | 1,5-dimethyl-1H-pyrazole-4-carbaldehyde | CN1N=CC(=C1C)C=O | C6H8N2O
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-amine | C(C)NCC=1C=NN(C1C)C | C8H15N3
